US07622583B2
A mixture of 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid (100 mg, 0.24 mmol), oxalyl chloride (2 N in DCM, 0.24 mL, 0.48 mmol), TEA (0.064 mL) in THF (1 mL) was stirred at RT for 2 hours and then evaporated to dryness to give 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride.

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid | 0.24 mmol, 100 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | oxalyl chloride | 0.48 mmol, 2 N, 0.24 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride | ClC=1C=C(C(=NC1)C(=O)Cl)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10Cl3F3N2O4S
